Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]=[C:3]([H:4])[O:5]/[C:6]=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[H:12].[H:1][C:2]=[C:3]([H:4])[O:5][C:6][C:7]([H:8])=[C:9]([H:10])[H:11],3.16729741042
[C:8]([H:9])([H:10])=[C:11]=[C:12]([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6][H:7]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[C:8]([H:9])([H:10])[C:11]=[C:12]([H:13])[H:14],-1.8945874214700005
[H:1][C:2]([H:3])=[C:4]([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C@:4]1([C:5]([H:6])([H:7])[H:8])[O:9][C:10]([H:11])([H:12])[C:13]1([H:14])[H:15],-0.12888653961
[O:1]=[C:2]([H:3])[C:4]#[C:5][C:6]([H:7])=[C:8][H:9]>>[C:6]([H:7])#[C:8][H:9].[O:1]=[C:2]([H:3])[C:4]#[C:5],3.19428462584
[H:11].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]#[C:10][H:11],-5.70336702261
[O:1]=[C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][H:12].[O:1]=[C:2],3.5381030116
[H:1][C:2]#[C:3][O:4][C:5]([H:6])[H:7]>>[C:2]#[C:3][O:4][C:5]([H:6])[H:7].[H:1],5.17549354015
[H:1][C:2]([H:3])=[C:4]1[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1([H:13])[H:14]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.1035288897000015
[H:1][C:2]#[C:3]/[C:4](=[C:5]/[C:6]([H:7])([H:8])[H:9])[O:10][H:11]>>[C:5][C:6]([H:7])([H:8])[H:9].[H:1][C:2]#[C:3][C:4][O:10][H:11],5.456087545090001
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])[H:11]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]#[C:8][C:9]([H:10])([H:11])[H:12],-3.80787399993
[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9]>>[C:5]([H:6])=[C:7]([H:8])[H:9].[H:1][O:2][C:3]#[C:4],5.84458303826
[H:12].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][H:11]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12],-5.24144325809
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[C:14]([H:15])([H:16])[H:17].[H:13],4.299287616
[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16].[H:1][C:2]>>[H:1][C:2]=[C:3]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-8.24255960048
[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10],-5.221088260809999
[H:1][O:2][C:3]([H:4])[C:6]#[C:7][C:9](=[C:5]([H:8])[H:11])[H:10]>>[H:1][O:2]/[C:3]([H:4])=[C:5]1\[C:6][C:7]([H:8])[C:9]1([H:10])[H:11],1.09759867945
[C:4]([H:5])[H:6].[H:1][O:2][C:3][C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])([H:13])[H:14],-7.38131425
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:11]([H:12])[H:13],6.31131757484
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[O:6][H:7],3.22551901911
[H:1][O:2][C:3](=[C:4]([H:5])[H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])[H:13]>>[C:7]([H:8])([O:9][H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.53363191069
[H:1][C:2]([H:3])[C@:4]1([H:5])[C:6]([H:7])([H:8])[O:9][C@@:10]1([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[O:9][C:10]([H:11])[C:12]([H:13])([H:14])[H:15],-0.0570255489901999
[H:1][C:2]=[O:3].[H:4]>>[H:1][C:2][O:3][H:4],-1.68598916408
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[O:1]=[C:2],0.910324716481
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[H:1][O:2]/[C:3]([H:4])=[C:6]/[O:7][C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:5],2.9571489035000003
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]\[C:11]([H:12])([H:13])[H:14]>>[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:10]/[C:11]([H:12])([H:13])[H:14],1.0204148587200002
[O:1]=[C:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][H:11]>>[C:6]([H:7])=[C:8]([H:9])[O:10][H:11].[O:1]=[C:2]=[C:3]([H:4])[H:5],1.937744329
[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])=[O:4]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10],1.96979868
[H:1][C:2]([H:3])([H:4])[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],1.90343715481
[C:3]([H:4])(=[C:5])[H:8].[H:1][C:2](=[C:6][H:7])[C:9]([H:10])([H:11])[H:12]>>[H:1][C:2]([C:3]([H:4])=[C:5]=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-4.72190826639
